US05034015
2nd stage: Preparation of 6-hydroxy-1-methylindole
The mixture constituted by 0.24 mole (57 g) 6-benzyloxy-1-methylindole, 5.7 g 10% palladium-on-charcoal, 114 ml cyclohexane and 170 ml 96° ethanol is heated for 30 minutes under reflux. It is filtered hot in order to remove the catalyst. After evaporation of the filtrate under vacuum, an oil is obtained which, when dissolved in isopropyl ether, leads after evaporation to dryness to the desired product. It melts at 74° C.

reactant | 6-benzyloxy-1-methylindole | 0.24 mole, 57 g | C(C1=CC=CC=C1)OC1=CC=C2C=CN(C2=C1)C | C16H15NO
reactant | cyclohexane | 114 ml | C1CCCCC1 | C6H12
reactant | ethanol | C(C)O | C2H6O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | palladium-on-charcoal | 5.7 g | [Pd] | Pd
product | 6-hydroxy-1-methylindole | OC1=CC=C2C=CN(C2=C1)C | C9H9NO
